US09024041B2
Intermediate C2: 4-(2,3-Dimethyl-4-nitrophenoxy)pyridin-2-amine
To a stirred solution of 2-aminopyridin-4-ol (600 mg, 5.5 mmol) and 1-fluoro-2,3-dimethyl-4-nitrobenzene (570 mg, 3.37 mmol) in DMSO (4.0 mL) was added K2CO3 (1.00 g, 7.20 mmol) and the reaction mixture heated to 75° C. for 3 days. The resulting mixture was cooled to RT and was partitioned between water (50 mL) and EtOAc (75 mL). The aq layer was separated and extracted with EtOAc (75 mL) and the combined organic extracts were washed with water (3×50 mL) and brine (50 mL) and then dried and evaporated in vacuo. The residue was recrystallized from DCM to afford the title compound, Intermediate C2, as a tan solid (25 mg, 28%): Rt 1.40 min (Method 2); m/z 260 (M+H)+ (ES+).

reactant | 2-aminopyridin-4-ol | 5.5 mmol, 600 mg | NC1=NC=CC(=C1)O | C5H6N2O
reactant | 1-fluoro-2,3-dimethyl-4-nitrobenzene | 3.37 mmol, 570 mg | FC1=C(C(=C(C=C1)[N+](=O)[O-])C)C | C8H8FNO2
reactant | K2CO3 | 7.20 mmol, 1.00 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 4.0 mL | CS(=O)C | C2H6OS
product | 4-(2,3-Dimethyl-4-nitrophenoxy)pyridin-2-amine | CC1=C(OC2=CC(=NC=C2)N)C=CC(=C1C)[N+](=O)[O-] | C13H13N3O3
